US06897224B2
2-Acetyl(methyl)amino-5-nitroquinoline
580 mg (2.4 mmol) of 2-methylamino-5-nitroquinoline is stirred with 4 ml (50 mmol) of pyridine and 2 ml (21 mmol) of acetic anhydride for 15 hours at room temperature and stirred for 4.5 hours at 60° C. The batch is diluted with ethyl acetate, poured into saturated NaHCO3 solution, stirred for 30 minutes, and extracted with ethyl acetate. The extracts are dried (Na2SO4) and concentrated by evaporation. The residue is purified on silica gel with hexane-ethyl acetate: 660 mg of a yellow solid.

reactant | 2-methylamino-5-nitroquinoline | 2.4 mmol, 580 mg | CNC1=NC2=CC=CC(=C2C=C1)[N+](=O)[O-] | C10H9N3O2
reactant | pyridine | 50 mmol, 4 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 21 mmol, 2 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Acetyl(methyl)amino-5-nitroquinoline | C(C)(=O)C1=NC2=CC=CC(=C2C=C1NC)[N+](=O)[O-] | C12H11N3O3
